### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits): pushouts in the category of sets

### PR DESCRIPTION
**Pull request by joelriou**
This PR studies pushouts in the category of types. Specific properties of the pushout when one of the morphisms is injective are obtained.

This PR partly removes the reference to the issue https://github.com/leanprover-community/mathlib4/issues/5752 : the `HasPushouts (Type _)` instance can now be found automatically, but not `HasPullbacks`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 1]
```diff
@@ -711,12 +711,206 @@ end Pullback
 
 section Pushout
 
--- #synth HasPushouts.{u} (Type u)
-instance : HasPushouts.{u} (Type u) :=
-  -- FIXME does not work via `inferInstance` despite `#synth HasPushouts.{u} (Type u)` succeeding.
-  -- https://github.com/leanprover-community/mathlib4/issues/5752
-  -- inferInstance
-  hasPushouts_of_hasWidePushouts.{u} (Type u)
```
Comment (urkud) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:719]: Does `inferInstance` work now? If yes, then please mention in the PR description.

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 2]
```diff
@@ -711,12 +711,206 @@ end Pullback
...
+by the equivalence relation on `X₁ ⊕ X₂` generated by this relation. -/
+inductive Pushout.Rel (f : S ⟶ X₁) (g : S ⟶ X₂) : X₁ ⊕ X₂ → X₁ ⊕ X₂ → Prop
+  | inl_inr (s : S) : Pushout.Rel f g (Sum.inl (f s)) (Sum.inr (g s))
+
+/-- Construction of the pushout in the category of types, as a quotient of `X₁ ⊕ X₂`. -/
+def Pushout : Type u := _root_.Quot (Pushout.Rel f g)
+
+/-- In case `f : S ⟶ X₁` is a monomorphism, this relation is the equivalence relation
+generated by `Pushout.Rel f g`. -/
+inductive Pushout.Rel' : Sum X₁ X₂ → Sum X₁ X₂ → Prop
```
Comment (urkud) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:726]: Please use notation `X ⊕ Y` for `Sum X Y`. Mathlib rarely uses it because Mathport deleted it all over the library.

**Comment by urkud** [comment]
I left a couple of trivial comments but I'm not assigning this PR to myself because I'm not an active user of the category theory part of the library.

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Types.lean:719]: Yes, it does work now.

Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Types.lean:719]: (But only for pushouts, there is still an issue with pullbacks.)

**Comment by joelriou** [comment]
Thanks @urkud for your suggestions!

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 3]
```diff
@@ -711,12 +711,206 @@ end Pullback
...
+  right_inv := by rintro ⟨x⟩; rfl
+
+lemma quot_mk_eq_iff [Mono f] (a b : X₁ ⊕ X₂) :
+    (Quot.mk _ a : Pushout f g) = Quot.mk _ b ↔ Rel' f g a b := by
+  rw [← (equivalence_rel' f g).quot_mk_eq_iff]
+  constructor
+  · intro h
+    exact (equivPushout' f g).symm.injective h
+  · intro h
+    exact (equivPushout' f g).injective h
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:876]:
```suggestion
  exact ⟨equivPushout' f g).symm.injective ·, equivPushout' f g).injective ·⟩
```

**Comment by joelriou** [comment]
Thanks @jcommelin for the suggestions which I have all applied.

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 4]
```diff
@@ -720,12 +720,202 @@ end Pullback
...
+  · exact Rel'.inl_inr _
+
+variable (f g)
+
+lemma equivalence_rel' [Mono f] : _root_.Equivalence (Rel' f g) where
+  refl := Rel'.refl
+  symm h := h.symm
+  trans := by
+    intro x y z hxy hyz
+    obtain _|⟨_, _, h⟩|s|_ := hxy
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:821]: Here's another opportunity for `rintro`.

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 5]
```diff
@@ -720,12 +720,202 @@ end Pullback
...
+    · exact hyz
+    · obtain z₁|z₂ := z
+      · rw [inl_rel'_inl_iff] at hyz
+        obtain rfl|⟨_, _, h', h'', rfl⟩  := hyz
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:825]:
```suggestion
        obtain rfl|⟨_, _, h', h'', rfl⟩ := hyz
```

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 6]
```diff
@@ -720,12 +720,202 @@ end Pullback
...
+variable (f g)
+
+lemma equivalence_rel' [Mono f] : _root_.Equivalence (Rel' f g) where
+  refl := Rel'.refl
+  symm h := h.symm
+  trans := by
+    intro x y z hxy hyz
+    obtain _|⟨_, _, h⟩|s|_ := hxy
+    · exact hyz
+    · obtain z₁|z₂ := z
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:823]: Can this step also be integrated into the `rintro`?

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 7]
```diff
@@ -720,12 +720,202 @@ end Pullback
...
+
+/-- The obvious equivalence `Pushout f g ≃ Pushout' f g`. -/
+def equivPushout' : Pushout f g ≃ Pushout' f g where
+  toFun := Quot.lift (Quot.mk _) (by
+    rintro _ _ ⟨⟩
+    apply Quot.sound
+    apply Rel'.inl_inr)
+  invFun := Quot.lift (Quot.mk _) (by
+    rintro a b h
+    obtain _|⟨x₀, y₀, h⟩|_|_ := h
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:862]:
```suggestion
    rintro a b (_|⟨x₀, y₀, h⟩|_|_)
```

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/Shapes/Types.lean:822]: Thanks for the suggestions! I have use `rintro` for the `hxy` variable, but not for `z` because this would create 8 goals instead of 7.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
